US07488856B2
3,8-Bis(biphen-4-yl)fluoranthene
1 g of 3,8-dibromofluoranthene, prepared by dibromination of fluoranthene in chloroform with elemental bromine, was dissolved under protective gas in 100 ml of dried toluene and degassed repeatedly. 19.4 g of potassium carbonate dissolved in 47 ml of ethanol/water (1:1 parts by volume) and 1 g of 4-biphenylboronic acid were added and degassed again. Subsequently, 0.32 g of tetrakis(triphenylphosphine)palladium(0) (Pd(PPh3)4) was added under protective gas and the mixture was stirred at 80° C. for 16 hours. The reaction mixture was filtered and dried. Yield: 14% as a yellowish solid. λmax,em (toluene)=479 nm, quantum yield (toluene): 74%.

reactant | 3,8-dibromofluoranthene | 1 g | BrC=1C=CC=2C3=CC=C(C=C3C3=CC=CC1C23)Br | C16H8Br2
reactant | fluoranthene | C1=CC=C2C=CC=C3C4=CC=CC=C4C1=C23 | C16H10
reactant | bromine | BrBr | Br2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,8-Bis(biphen-4-yl)fluoranthene | Yield: 14% | C1(=CC=C(C=C1)C1=CC=CC=C1)C=1C=CC=2C3=CC=C(C=C3C3=CC=CC1C23)C2=CC=C(C=C2)C2=CC=CC=C2 | C40H26
